US06884804B2
Phenyl-hydrazinecarbodithioic Acid Methyl Ester
To a stirred solution of phenylhydrazine (30 mmol, 1 equiv) in dry acetonitrile (20 mL) was added trithiocarbonic acid dimethyl ester (30 mmol, 1 equiv) slowly at ice bath temperature. The mixture was stirred for 18 hours and diluted with diethylether (30 mL). The resulting white solid was filtered and was washed with ether and dried under nitrogen to afford title compound.

reactant | phenylhydrazine | 30 mmol, 1 equiv | C1(=CC=CC=C1)NN | C6H8N2
reactant | trithiocarbonic acid dimethyl ester | 30 mmol, 1 equiv | CSC(SC)=S | C3H6S3
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | diethylether | 30 mL | C(C)OCC | C4H10O
product | Phenyl-hydrazinecarbodithioic Acid Methyl Ester | CSC(=S)N(N)C1=CC=CC=C1 | C8H10N2S2
